* Antiparallel Diodes - Symmetric clipping (without input voltage source for solver validation)
* Input is applied via solver's input_conductance at node 'in'

.model D1N4148 D(IS=2.52e-9 RS=0.568 N=1.906)

R1 in out 1k
D1 out 0 D1N4148
D2 0 out D1N4148

.end
